US04125729
[p-(p-Aminophenoxy)phenyl]acetic Acid
To a solution of 13.65 g of [p-(p-nitrophenoxy)-phenyl]acetic acid in 100 ml of ethanol is added 130 mg of platinum oxide. The mixture is shaken under 45 lb hydrogen pressure in a Parr shaker. After 2 hours, a thick white solid precipitates. The mixture is filtered, and 200 mg of fresh platinum oxide is added to the filtrate which is subjected to the reducing conditions. After an additional hour, the mixture is filtered and washed with cold ethanol. The combined solids are dissolved in hot methanol and filtered. Water is added to the filtrate to afford 4.9 g of a brown solid. A portion is recrystallized from methanol to yield the product as cream colored crystals, mp 172° C (dec.).

reactant | [p-(p-nitrophenoxy)-phenyl]acetic acid | 13.65 g | [N+](=O)([O-])C1=CC=C(OC2=CC=C(C=C2)CC(=O)O)C=C1 | C14H11NO5
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | platinum oxide | 130 mg | [Pt]=O
product | [p-(p-Aminophenoxy)phenyl]acetic Acid | 4.9 g | NC1=CC=C(OC2=CC=C(C=C2)CC(=O)O)C=C1 | C14H13NO3
